US09056859B2
A mixture of 5-bromo-4-iodo-2-benzofuran-1(3H]-one (2.42 g, 7.13 mmol), allyltributyltin (2.36 g, 7.13 mmol), LiCl (1.50 g, 35.7 mmol) and Pd (PPh3)4 (200 g, 0.173 mmol) in toluene (50 mL) was heated at 90-100° C. under N2 overnight; LC indicated that reaction had gone to completion, to the solution was poured EtOAc (100 mL) and washed with brine. The organic layer was dried over Na2SO4, filtered and concentrated to dryness, absorbed into silica gel and was then separated over silica gel column to give 5-bromo-4-prop-2-en-1-yl-2-benzofuran-1(3H)-one. 1H-NMR (400 MHz, CDCl3) δ ppm 7.795 (d, J=8 Hz, 1H), 7.680 (d, J=8 Hz, 8.5 Hz, 1H), 5.938-5.925 (m, 1H), 5.302 (s, 2H), 5.192-5.172 (m, 1H), 5.075-5.041 (m, 1H), 3.611-3.599 (m, 2H)

reactant | 5-bromo-4-iodo-2-benzofuran-1(3H]-one | 7.13 mmol, 2.42 g | BrC1=C(C2=C(C(OC2)=O)C=C1)I | C8H4BrIO2
reactant | allyltributyltin | 7.13 mmol, 2.36 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | LiCl | 35.7 mmol, 1.50 g | [Li+].[Cl-]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd (PPh3)4 | 0.173 mmol, 200 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-bromo-4-prop-2-en-1-yl-2-benzofuran-1(3H)-one | BrC1=C(C2=C(C(OC2)=O)C=C1)CC=C | C11H9BrO2
